US05021429
N-Methyl-N'-[2-[[3-(N,N-dimethylaminomethyl)phenyl]methylthio]ethyl]thiourea
2-[[3-(N,N-Dimethylaminomethyl)phenyl]methylthio]ethanamine (5 g) and methyl isothiocyanate (1.62 g) were stirred at room temperature in acetonitrile for 18 hours. The solvent was removed and the residue was column chromatographed on silica using a mixture of ethyl acetate and methanol as eluent to give the title compound as a pale yellow oil. TLC silica; ethyl acetate:isopropanol:water:0.88 ammonia (25:15:8:2) Rf 0.61.

reactant | 2-[[3-(N,N-Dimethylaminomethyl)phenyl]methylthio]ethanamine | 5 g | CN(C)CC=1C=C(C=CC1)CSCCN | C12H20N2S
reactant | methyl isothiocyanate | 1.62 g | CN=C=S | C2H3NS
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Methyl-N'-[2-[[3-(N,N-dimethylaminomethyl)phenyl]methylthio]ethyl]thiourea | CNC(=S)NCCSCC1=CC(=CC=C1)CN(C)C | C14H23N3S2
